US06022714
12-Hydroxydodecanoic acid (10.82 g, 50 mmol) was added to 3% HCl in CH3OH (210 ml). The reaction was stirred at 22° C. for 3.5 hours and concentrated on a rotary evaporator. The residue was taken up in ethyl acetate (200 ml) and washed with 1M K2CO3 (2×150 ml), and once with saturated aqueous NaCl (150 ml), dried over Na2SO4, concentrated and vacuum distilled to yield 10.3 g of methyl 12-hydroxydodecanoate in 90% yield; mp 33.5-35.0° C., 1H NMR (CDCl3) delta 3.66 (s, 3H), 3.62 (t, 2H), 2.88 (t, 2H), 1.28 (br s, 18H).

reactant | 12-Hydroxydodecanoic acid | 50 mmol, 10.82 g | OCCCCCCCCCCCC(=O)O | C12H24O3
reactant | HCl | Cl | ClH
reactant | CH3OH | 210 ml | CO | CH4O
product | methyl 12-hydroxydodecanoate | 10.3 g, 90% yield | OCCCCCCCCCCCC(=O)OC | C13H26O3
